US04600709
22.8 g (0.059 mole) of ethyl 5-chloro-6-(3-fluorophenylsulfonyl)-1,3-benzodioxole-2-carboxylate are covered with 90 ml of 2-n sodium hydroxide solution and the batch is heated for half an hour in a boiling water bath, cooled, acidified with hydrochloric acid and then extracted with ethyl acetate. The extract is concentrated by evaporation, affording 5-chloro-6-(3-fluorophenylsulfonyl)-1,3-benzodioxole-2-carboxylic acid. Melting point 161°-163° C. (crystallisation from ether/toluene).

reactant | ethyl 5-chloro-6-(3-fluorophenylsulfonyl)-1,3-benzodioxole-2-carboxylate | 0.059 mole, 22.8 g | ClC1=CC2=C(OC(O2)C(=O)OCC)C=C1S(=O)(=O)C1=CC(=CC=C1)F | C16H12ClFO6S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
product | 5-chloro-6-(3-fluorophenylsulfonyl)-1,3-benzodioxole-2-carboxylic acid | ClC1=CC2=C(OC(O2)C(=O)O)C=C1S(=O)(=O)C1=CC(=CC=C1)F | C14H8ClFO6S
